US04569801
A 500 ml 3-neck round bottom flask was fitted with a condenser and glass wool drying tube. The flask was charged with 60 ml of 1M diborane in THF and 7.7 g (0.022 mol) of N-ethyl-N-[1-methyl-4-(4-nitrophenyl)butyl]heptanamide in 50 ml of THF was added dropwise. The resulting reaction mixture was refluxed overnight and cooled. A solution of 25 ml of 2N hydrochloric acid was added dropwise in order to decompose any excess diborane. The mixture was evaporated under reduced pressure and an additional 150 ml of 2N hydrochloric acid was added. This mixture was refluxed for 1 hour, cooled and made basic with 5N sodium hydroxide. The mixture was extracted three times with diethyl ether and the organic phase was washed with water and a saturated sodium chloride solution. The organic phase was dried over sodium sulfate and evaporated to dryness to provide 7.389 g of N-ethyl-N-heptyl-α-methyl-4-nitrobenzenebutanamine as an oil.

reactant | diborane | 1M, 60 ml | B#B | B2
reactant | N-ethyl-N-[1-methyl-4-(4-nitrophenyl)butyl]heptanamide | 0.022 mol, 7.7 g | C(C)N(C(CCCCCC)=O)C(CCCC1=CC=C(C=C1)[N+](=O)[O-])C | C20H32N2O3
reactant | hydrochloric acid | 2N, 25 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-ethyl-N-heptyl-α-methyl-4-nitrobenzenebutanamine | 7.389 g | C(C)N(C(CCCC1=CC=C(C=C1)[N+](=O)[O-])C)CCCCCCC | C20H34N2O2
